US05571821
3-Amino-5-methylisoxazole (0.196 g, 2.0 mmol) was dissolved in dry pyridine (3 ml). Benzenesulfonyl chloride (0.352 g, 2.0 mmol) was added and the resultant solution stirred at room temperature for 16 h. Pyridine was removed under reduced pressure. The residue was dissolved in dichloromethane (75 ml) and washed with 1N HCl (2×50 ml). The organic layer was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure to give N-(5-methy-3-isoxazolyl)benzene-sulfonamide (0.40 g, 84% yield). The product was purified by recrystallization using ethyl acetate/hexanes to give a white solid, m.p. 107°-8° C.

reactant | 3-Amino-5-methylisoxazole | 2.0 mmol, 0.196 g | NC1=NOC(=C1)C | C4H6N2O
reactant | Benzenesulfonyl chloride | 2.0 mmol, 0.352 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-methy-3-isoxazolyl)benzene-sulfonamide | 0.40 g, 84% yield | CC1=CC(=NO1)NS(=O)(=O)C1=CC=CC=C1 | C10H10N2O3S
